subckt mux8i_x1 D0 D1 D2 D3 D4 D5 D6 D7 S0 S1 S2 X VDD VSS
M8S0_P0 (s0_b S0 VDD VDD) pmos w=2u l=100n
M8S0_N0 (s0_b S0 VSS VSS) nmos w=1u l=100n
M8S1_P0 (s1_b S1 VDD VDD) pmos w=2u l=100n
M8S1_N0 (s1_b S1 VSS VSS) nmos w=1u l=100n
M8S2_P0 (s2_b S2 VDD VDD) pmos w=2u l=100n
M8S2_N0 (s2_b S2 VSS VSS) nmos w=1u l=100n
M8a0_MP0 (m8_m01 S0 D0 VDD) pmos w=2u l=100n
M8a0_MN0 (m8_m01 s0_b D0 VSS) nmos w=1u l=100n
M8a0_MP1 (m8_m01 s0_b D1 VDD) pmos w=2u l=100n
M8a0_MN1 (m8_m01 S0 D1 VSS) nmos w=1u l=100n
M8b0_MP0 (m8_m23 S0 D2 VDD) pmos w=2u l=100n
M8b0_MN0 (m8_m23 s0_b D2 VSS) nmos w=1u l=100n
M8b0_MP1 (m8_m23 s0_b D3 VDD) pmos w=2u l=100n
M8b0_MN1 (m8_m23 S0 D3 VSS) nmos w=1u l=100n
M8c0_MP0 (m8_m45 S0 D4 VDD) pmos w=2u l=100n
M8c0_MN0 (m8_m45 s0_b D4 VSS) nmos w=1u l=100n
M8c0_MP1 (m8_m45 s0_b D5 VDD) pmos w=2u l=100n
M8c0_MN1 (m8_m45 S0 D5 VSS) nmos w=1u l=100n
M8d0_MP0 (m8_m67 S0 D6 VDD) pmos w=2u l=100n
M8d0_MN0 (m8_m67 s0_b D6 VSS) nmos w=1u l=100n
M8d0_MP1 (m8_m67 s0_b D7 VDD) pmos w=2u l=100n
M8d0_MN1 (m8_m67 S0 D7 VSS) nmos w=1u l=100n
M8e0_MP0 (m8_m0123 S1 m8_m01 VDD) pmos w=2u l=100n
M8e0_MN0 (m8_m0123 s1_b m8_m01 VSS) nmos w=1u l=100n
M8e0_MP1 (m8_m0123 s1_b m8_m23 VDD) pmos w=2u l=100n
M8e0_MN1 (m8_m0123 S1 m8_m23 VSS) nmos w=1u l=100n
M8f0_MP0 (m8_m4567 S1 m8_m45 VDD) pmos w=2u l=100n
M8f0_MN0 (m8_m4567 s1_b m8_m45 VSS) nmos w=1u l=100n
M8f0_MP1 (m8_m4567 s1_b m8_m67 VDD) pmos w=2u l=100n
M8f0_MN1 (m8_m4567 S1 m8_m67 VSS) nmos w=1u l=100n
M8g0_MP0 (m8_y S2 m8_m0123 VDD) pmos w=2u l=100n
M8g0_MN0 (m8_y s2_b m8_m0123 VSS) nmos w=1u l=100n
M8g0_MP1 (m8_y s2_b m8_m4567 VDD) pmos w=2u l=100n
M8g0_MN1 (m8_y S2 m8_m4567 VSS) nmos w=1u l=100n
M8IOUT0_P0 (X m8_y VDD VDD) pmos w=2u l=100n
M8IOUT0_N0 (X m8_y VSS VSS) nmos w=1u l=100n
ends mux8i_x1
