subckt nor2_x1 A1 A2 X VDD VSS
MPA0 (pmid_M0 A1 VDD VDD) pmos w=2u l=100n
MPB0 (X A2 pmid_M0 VDD) pmos w=2u l=100n
MNA0 (X A1 VSS VSS) nmos w=1u l=100n
MNB0 (X A2 VSS VSS) nmos w=1u l=100n
ends nor2_x1
